US05192766
Methyl (E)-3,5-diphenylpent-2-en-4-ynoate
0.158 g of cuprous iodide and 0.424 g of phenylacetylene were added to 25 ml of a diethylamine solution containing 1.000 g of methyl (Z)-3-bromocinnamate and 0.029 g of bis(triphenylphosphine)dichloropalladium. The mixture was then stirred for 1 hour at room temperature, after which the solvent was distilled off under reduced pressure. Water was added to the residue, and the resulting mixture was extracted twice with benzene. The combined benzene extracts were washed with water, dried over anhydrous sodium sulfate and condensed by evaporation under reduced pressure. The residue was subjected to column chromatography through silica gel (70-230 Tyler mesh, 25 g). Those fractions eluted with a 39:1 by volume mixture of hexane and ethyl acetate were collected to afford 1.043 g of the title compound, melting at 73°-75° C. (after recrystallisation from hexane).

reactant | phenylacetylene | 0.424 g | C1(=CC=CC=C1)C#C | C8H6
reactant | diethylamine | 25 ml | C(C)NCC | C4H11N
reactant | methyl (Z)-3-bromocinnamate | 1.000 g | BrC=1C=C(\C=C/C(=O)OC)C=CC1 | C10H9BrO2
catalyst | bis(triphenylphosphine)dichloropalladium | 0.029 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl (E)-3,5-diphenylpent-2-en-4-ynoate | C1(=CC=CC=C1)\C(=C/C(=O)OC)\C#CC1=CC=CC=C1 | C18H14O2
